US08022218B2
(h). (4R,7S)-4-[4-(2-Amino-4,5-difluoro-benzyloxy)-3-bromo-5-ethoxy-phenyl]-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carbonitrile
A solution of (4R,7S)-4-[3-Bromo-4-(4,5-difluoro-2-nitro-benzyloxy)-5-ethoxy-phenyl]-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carbonitrile (Example 72 g, 10.6 g) and acetic acid (19.6 ml) in THF (400 ml) was cooled to 0° C. Zinc dust (27.6 g) was added in portions under vigorous stirring. The mixture was stirred for 2 h at 0° C. and then filtered. The solids were washed with dichloromethane and the combined filtrates were washed with sat. aq. NaHCO3. The organic layer was dried (MgSO4), filtered and concentrated in vacuo.

reactant | (4R,7S)-4-[3-Bromo-4-(4,5-difluoro-2-nitro-benzyloxy)-5-ethoxy-phenyl]-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carbonitrile | 72 g | BrC=1C=C(C=C(C1OCC1=C(C=C(C(=C1)F)F)[N+](=O)[O-])OCC)[C@@H]1C(=C(NC=2C[C@@H](CC(C12)=O)CCC)C)C#N | C29H28BrF2N3O5
reactant | acetic acid | 19.6 ml | C(C)(=O)O | C2H4O2
solvent | THF | 400 ml | C1CCOC1 | C4H8O
catalyst | Zinc | 27.6 g | [Zn] | Zn
product | (4R,7S)-4-[4-(2-Amino-4,5-difluoro-benzyloxy)-3-bromo-5-ethoxy-phenyl]-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carbonitrile | NC1=C(COC2=C(C=C(C=C2OCC)[C@@H]2C(=C(NC=3C[C@@H](CC(C23)=O)CCC)C)C#N)Br)C=C(C(=C1)F)F | C29H30BrF2N3O3
